US06660744B1
1,1-Dicyano-2-methoxy-2-(4-phenoxyphenyl)ethene (Intermediate AA) (22.5 g) and 1,1-dicyano-2-methoxy-2-(4-phenoxyphenyl)ethene oil (15 g) were treated with a solution of 18 mL hydrazine hydrate in 25 mL ethanol and heated on the steambath for 1 hour, 15 mL ethanol added followed 10 mL water. The precipitated solid was collected and washed with 4:1 ethanol:water then dried in air giving 3-amino-4-cyano-5-(4-phenoxyphenyl)pyrazole as a pale orange solid 30.0 g (80%) m.p. 187-188.5° C. 1H NMR (DMSO-d6,400 MHz) 12.11 (broad s, 1H), 7.80 (d, 2H), 7.42 (m, 2H), 7.18 (m, 1H), 7.09 (m, 4H), 6.47 (broad s, 2H). Calculated for C16H12N4O C 69.6H 4.3 N 20.3 Found C 69.5H 4.4 N 20.2.

reactant | 1,1-Dicyano-2-methoxy-2-(4-phenoxyphenyl)ethene | 22.5 g | C(#N)C(=C(C1=CC=C(C=C1)OC1=CC=CC=C1)OC)C#N | C17H12N2O2
reactant | 1,1-dicyano-2-methoxy-2-(4-phenoxyphenyl)ethene | 15 g | C(#N)C(=C(C1=CC=C(C=C1)OC1=CC=CC=C1)OC)C#N | C17H12N2O2
reactant | hydrazine hydrate | 18 mL | O.NN
reactant | water | 10 mL | O | H2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-amino-4-cyano-5-(4-phenoxyphenyl)pyrazole | 30.0 g, 80% | NC1=NNC(=C1C#N)C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H12N4O
